US08754229B2
Preparation of 2-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-(difluoro-methoxy)pyridin-4-amine
6-Bromo-2-chloro-3-(difluoromethoxy)pyridin-4-amine (368 mg, 1.346 mmol), 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane (395 mg, 1.615 mmol), PdCl2(PPh3)2 (47.2 mg, 0.067 mmol), and CsF (409 mg, 2.69 mmol) were combined in DME (2 mL) and H2O (2 mL) and heated in a Biotage microwave reactor at 110° C. for 15 min. The cooled reaction mixture was partitioned between EtOAc and H2O. The organic phase was dried, concentrated onto silica gel, and purified by flash chromatography (SiO2, EtOAc/hexane gradient). This process yielded the title compound as a white solid (0.4 g, 84%): mp 152-154° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.63-7.50 (m, 1H), 7.42 (dd, J=8.7, 1.6, 1H), 7.16 (d, J=1.8, 1H), 7.02 (t, J=73.4, 1H), 6.70 (s, 2H), 3.93 (d, J=0.8, 3H); ESIMS m/z 354 ([M+H]+), 352 ([M−H]−).

reactant | 6-Bromo-2-chloro-3-(difluoromethoxy)pyridin-4-amine | 1.346 mmol, 368 mg | BrC1=CC(=C(C(=N1)Cl)OC(F)F)N | C6H4BrClF2N2O
reactant | 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane | 1.615 mmol, 395 mg | ClC1=C(C(=C(C=C1)B1OCCCO1)F)OC | C10H11BClFO3
reactant | CsF | 2.69 mmol, 409 mg | [F-].[Cs+]
reactant | H2O | 2 mL | O | H2O
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | PdCl2(PPh3)2 | 0.067 mmol, 47.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-(difluoro-methoxy)pyridin-4-amine | 0.4 g, 84% | ClC1=NC(=CC(=C1OC(F)F)N)C1=C(C(=C(C=C1)Cl)OC)F | C13H9Cl2F3N2O2
